US05393875
In an analogous manner to that described in Example 1, paragraphs (d) and (e), starting from 2-mercaptoisobutyric acid and ethyl 2-benzylacrylate there was obtained (RS)-2-[[2-[(ethoxy)carbonyl]-3-phenylpropyl]sulfonyl]-2-methylpropionyl chloride, reaction of which with morpholine analogously to Example 2, paragraph (a), and subsequent enzymatic hydrolysis analogously to Example 6, paragraph (c), yielded (S)-α-[[[1-methyl-1-(morpholinocarbonyl)ethyl]sulfonyl]methyl]hydrocinnamic acid, MS: 383 (M)+, as a colourless solid.

reactant | (RS)-2-[[2-[(ethoxy)carbonyl]-3-phenylpropyl]sulfonyl]-2-methylpropionyl chloride | C(C)OC(=O)C(CS(=O)(=O)C(C(=O)Cl)(C)C)CC1=CC=CC=C1 | C16H21ClO5S
reactant | morpholine | N1CCOCC1 | C4H9NO
product | (S)-α-[[[1-methyl-1-(morpholinocarbonyl)ethyl]sulfonyl]methyl]hydrocinnamic acid | CC(C)(C(=O)N1CCOCC1)S(=O)(=O)C[C@H](C(=O)O)CC1=CC=CC=C1 | C18H25NO6S
